US08202873B2
1-Benzyl-3,5-dimethyl-1H-pyrazole-4-carbaldehyde
Dissolve 1-benzyl-3,5-dimethyl-1H-pyrazole (3.088 g, 16.6 mmol) in N,N-dimethylformamide (12.8 mL) and heat the mixture to 95° C., then add phosphorus oxychloride (13.4 mL) dropwise. Stir the mixture for 3 hr. at 95° C. then cool and add ice water very slowly. Adjust the mixture to approximately pH=4 using 5 N sodium hydroxide, extract the black mixture with diethyl ether 3 times, dry (sodium sulfate) and filter to give the title preparation as a yellow solid (2.65 g, 75%). 1H-NMR (400 MHz, DMSO-d6) δ 2.282 (s, 3H); 2.433 (s, 3H); 5.233 (s, 2H); 7.13 (m, 2H); 7.21-7.34 (m, 3H); 9.800 (s, 1H).

reactant | 1-benzyl-3,5-dimethyl-1H-pyrazole | 16.6 mmol, 3.088 g | C(C1=CC=CC=C1)N1N=C(C=C1C)C | C12H14N2
reactant | phosphorus oxychloride | 13.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | N,N-dimethylformamide | 12.8 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-3,5-dimethyl-1H-pyrazole-4-carbaldehyde | C(C1=CC=CC=C1)N1N=C(C(=C1C)C=O)C | C13H14N2O
